US07247741B2
SYNTHESIS OF 4-CHLORO-3-[2-(4-ISOPROPYL-3-METHYL-PHENOXY)-ACETYLAMINO]-BENZOIC ACID
A suspension of 2-(4-isopropyl-3-methylphenoxy)acetic acid (1.50 g, 7.2 mmol) and catalytic dimethylformamide (3 drops) in dichloromethane (100 mL) was treated with a solution of oxalyl chloride (1.80 mL, 21.9 mmol) in dichloromethane (10 mL) dropwise over 20 min. After stirring for an additional 4 h, the solution was evaporated and taken up in THF (60 mL). One-half of this solution (ca. 3.6 mmol acid chloride) was added dropwise to an ice-cooled solution of 5-amino-2-chlorobenzoic acid (0.62 g, 3.6 mmol) and pyridine (0.87 mL, 11 mmol) in THF (5 mL). The resulting solution was stirred for 20 h, then partitioned between water and ethyl acetate (100 mL each). The organic layer was washed with 1 N aq. HCl and brine, and the aqueous phases were back-extracted in sequence with ethyl acetate. The extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The resulting solid was triturated with 1:1 ethyl acetate, refiltered and dried under vacuum to afford the title product (1.20 g, 3.6 mmol, 100%). m.p. 174–175° C. 1H NMR (d6-DMSO): δ 10.28 (1H, s), 8.13 (1H, t, J=1.8 Hz), 7.79 (1H, dt, J=8, 2 Hz), 7.46 (1H, dd, J=8, 2 Hz), 7.13 (1H, dd, J=8, 1.6 Hz), 6.79–6.71 (2H, m), 4.62 (2H, s), 3.00 (1H, m, J=6.6 Hz), 2.25 (3H, s), 1.12 (6H, d, J=6.6 Hz). Mass spectrum (ES+): m/z 364 (33), 362 (100). Elemental analysis: calculated for C19H20ClNO4 C, 63.07; H, 5.57; N, 3.87. observed C, 62.87; H, 5.58; N, 3.67.

reactant | 2-(4-isopropyl-3-methylphenoxy)acetic acid | 7.2 mmol, 1.50 g | C(C)(C)C1=C(C=C(OCC(=O)O)C=C1)C | C12H16O3
reactant | oxalyl chloride | 21.9 mmol, 1.80 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-2-chlorobenzoic acid | 3.6 mmol, 0.62 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | pyridine | 11 mmol, 0.87 mL | N1=CC=CC=C1 | C5H5N
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-CHLORO-3-[2-(4-ISOPROPYL-3-METHYL-PHENOXY)-ACETYLAMINO]-BENZOIC ACID | 3.6 mmol, 1.20 g, 100% | ClC1=C(C=C(C(=O)O)C=C1)NC(COC1=CC(=C(C=C1)C(C)C)C)=O | C19H20ClNO4
